US07662808B2
N-[6-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-yl]-3-methoxy-benzamide hydrochloric acid salt (Compound G19)
Was prepared according to Method G from 6-(1,4-diaza-bicyclo[3.2.2]non-4-yl)pyridin-3-ylamine and 3-methoxybenzoyl chloride. Mp. >265° C. (decomp.).

reactant | 6-(1,4-diaza-bicyclo[3.2.2]non-4-yl)pyridin-3-ylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=N2)N | C12H18N4
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
product | N-[6-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-yl]-3-methoxy-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=N2)NC(C2=CC(=CC=C2)OC)=O | InChI=1S/C20H24N4O2.ClH/c1-26-18-4-2-3-15(13-18)20(25)22-16-5-6-19(21-14-16)24-12-11-23-9-7-17(24)8-10-23;/h2-6,13-14,17H,7-12H2,1H3,(H,22,25);1H
